US07365066B2
7-(2-Chloro-ethoxy)-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline
4-(2-Pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinolin-7-ol in a solution of DMF and MeOH was treated with 1-bromo-2-chloroethane (3 equiv) and cesium carbonate (2 equiv). The reaction was heated to 60° C. and stirred overnight. As described above, the desired product was then obtained upon chromatographic purification (EtOAc, followed by MeOH, then 2 M NH3 in MeOH). Yield; 30% overall from Prep. 90. MS ES+ m/e 401.0 (M+1).

reactant | 4-(2-Pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinolin-7-ol | N1=C(C=CC=C1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC(=CC=C12)O | C21H14N4O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-bromo-2-chloroethane | 3 equiv | BrCCCl | C2H4BrCl
reactant | cesium carbonate | 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | MeOH | CO | CH4O
product | 7-(2-Chloro-ethoxy)-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline | Yield; 30% | ClCCOC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC=CC=C2 | C23H17ClN4O
